US07109184B2
(n-decyl)phosphono chloridic acid, ethyl ester
To a 500 mL round bottomed flask containing n-decylphosphonic acid diethyl ester, 22 g (79.0 mmol) was added to 100 mL of diethylether. This solution was stirred and cooled to −20° C. using an ice/salt water bath. Oxalyl Chloride (20.06 g, 158 mmol) was added in small portions over 45 minutes while maintaining the temperature at −20° C. The reaction mixture was then allowed to warm to room temperature and stirred for 24 hours. The solvent was removed by rotary evaporation to give a viscous liquid. The liquid was purified by vacuum distillation (boiling point: 126° C. at 0.4 mmHg) to give 15.5 g (73% yield) of the desired product. 1H NMR (400 MHz CDCl3): δ 4.2 (m, 2H), 2.0 (m, 2H), 1.6 (m, 2H), 1.2 (m, 17H), 0.75 (t, 3H).

reactant | n-decylphosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCCCCCCCC | C14H31O3P
reactant | Oxalyl Chloride | 158 mmol, 20.06 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
product | (n-decyl)phosphono chloridic acid, ethyl ester | 15.5 g, 73% yield | C(CCCCCCCCC)P(OCC)(=O)Cl | C12H26ClO2P
